US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]-3,5-dichlorobenzamide
3,5-Dichlorobenzamide, the product from Example 18A, benzotriazole, and p-toluenesulfonic acid were processed as described in Example 18B to provide the title compound.

reactant | 3,5-Dichlorobenzamide | ClC=1C=C(C(=O)N)C=C(C1)Cl | C7H5Cl2NO
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]-3,5-dichlorobenzamide | N1(N=NC2=C1C=CC=C2)C(C(CC2=CC=CC=C2)(C)C)NC(C2=CC(=CC(=C2)Cl)Cl)=O | C24H22Cl2N4O
